US08912210B2
Step D: 3-Bromo-1′-{[2-(trimethylsilyl)ethoxy]methyl}-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
(5-Bromopyridine-2,3-diyl)dimethanediyl dimethanesulfonate (17.0 g, 45.4 mmol) was added to a mixture of 1-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one (prepared according to the procedures described in WO2008/020902, 14.0 g, 53.0 mmol) and cesium carbonate (49.0 g, 150 mmol) in ethanol (500 mL) 23° C., and the resulting mixture was stirred for 20 h. The reaction mixture was concentrated then partitioned between ethyl acetate (500 mL) and water (500 mL). The organic layer was dried over magnesium sulfate and concentrated. The residue was purified via silica gel chromatography (heptane initially, grading to 100% EtOAc) to give the title compound. MS: m/z=448.1 (M+1).

reactant | (5-Bromopyridine-2,3-diyl)dimethanediyl dimethanesulfonate | 45.4 mmol, 17.0 g | CS(=O)(=O)OCC1=NC=C(C=C1COS(=O)(=O)C)Br | C9H12BrNO6S2
reactant | 1-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | C[Si](CCOCN1C(CC=2C1=NC=CC2)=O)(C)C | C13H20N2O2Si
reactant | cesium carbonate | 150 mmol, 49.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 3-Bromo-1′-{[2-(trimethylsilyl)ethoxy]methyl}-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | BrC=1C=C2C(=NC1)CC1(C(N(C3=NC=CC=C31)COCC[Si](C)(C)C)=O)C2 | C20H24BrN3O2Si
